US04146630
2-Benzyl-4-(3-hydroxypropoxy)-indazole
A mixture of 24 g. 2-benzyl-4-hydroxyindazole, 10.4 ml. 3-bromopropan-1-ol and 16 g. potassium carbonate in 100 ml. dimethylformamide is stirred for 30 hours at 70° C. After dilution with methylene chloride, the reaction mixture is filtered with suction, the filtrate is evaporated and the evaporation residue is purified chromatographically on silica gel (elution agent methylene chloride-ethyl acetate 9:1 v/v), 2-benzyl-4-(3-hydroxypropoxy)-indazole being obtained in the form of an oil.

reactant | 2-benzyl-4-hydroxyindazole | C(C1=CC=CC=C1)N1N=C2C=CC=C(C2=C1)O | C14H12N2O
reactant | 3-bromopropan-1-ol | BrCCCO | C3H7BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Benzyl-4-(3-hydroxypropoxy)-indazole | C(C1=CC=CC=C1)N1N=C2C=CC=C(C2=C1)OCCCO | C17H18N2O2
